US08124649B2
A solution of 3-((5-bromo-3-methylfuran-2-yl)methylene)indolin-2-one (125 mg, 0.41 mmol), 3-(methoxycarbonyl)phenylboronic acid (115 mg, 0.64 mmol), Cs2CO3 (270 mg, 0.83 mmol) and PdCl2(dppf) (16 mg, 0.02 mmol) in H2O/dioxane (5%, 5 mL) was heated at reflux for 1 h. The reaction mixture was diluted with H2O (150 mL) and extracted with EtOAc (3×100 mL). The organic layer was washed with brine (100 mL) and dried over Na2SO4 and concentrated to yield the desired methyl 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoate. LCMS (ES): m/z 360 [M+1]+.

reactant | 3-((5-bromo-3-methylfuran-2-yl)methylene)indolin-2-one | 0.41 mmol, 125 mg | BrC1=CC(=C(O1)C=C1C(NC2=CC=CC=C12)=O)C | C14H10BrNO2
reactant | 3-(methoxycarbonyl)phenylboronic acid | 0.64 mmol, 115 mg | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | Cs2CO3 | 0.83 mmol, 270 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | H2O dioxane | 5 mL | O.O1CCOCC1
solvent | H2O | 150 mL | O | H2O
catalyst | PdCl2(dppf) | 0.02 mmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoate | CC=1C=C(OC1C=C1C(NC2=CC=CC=C12)=O)C=1C=C(C(=O)OC)C=CC1 | C22H17NO4
